US06605628B1
6-(4-Chlorophenyl)hex-5-yn-1-ol
In a manner described in Example 18 above, 5-hexyn-1-ol was reacted with 1-chloro-4-iodobenzene to give the title compound, MS m/Z exact mass 209.724 (M+H)(calcd. For C12H13OCl 209.70).

reactant | 5-hexyn-1-ol | C(CCCC#C)O | C6H10O
reactant | 1-chloro-4-iodobenzene | ClC1=CC=C(C=C1)I | C6H4ClI
product | 6-(4-Chlorophenyl)hex-5-yn-1-ol | ClC1=CC=C(C=C1)C#CCCCCO | C12H13ClO
